US04038281
7-Ethyl-4,7-dihydro-2-methyl-4-oxo-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid
24.9 g. of 7-ethyl-4,7-dihydro-2-methyl-4-oxo-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester (0.1 mol.) are treated with 10 g. of potassium hydroxide in 100 ml. of ethyl alcohol at reflux temperature for 12 hours with stirring. The solvent is removed in vacuo and the crystalline, residual potassium salt is dissolved in 100 ml. of water. After acidifying the solution with acetic acid, 7-ethyl-4,7-dihydro-2-methyl-4-oxo-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid crystallizes, yield 19 g. (68%); m.p. 273°-275° (DMF).

reactant | 7-ethyl-4,7-dihydro-2-methyl-4-oxo-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | 0.1 mol | C(C)N1C=2C(C(C(=C1)C(=O)OCC)=O)=CN(N2)C | C12H15N3O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethyl alcohol | C(C)O | C2H6O
product | 7-Ethyl-4,7-dihydro-2-methyl-4-oxo-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid | C(C)N1C=2C(C(C(=C1)C(=O)O)=O)=CN(N2)C | C10H11N3O3
